US05292746
7-Chloro-3,3-dimethyl-3,4-dihydro-isoquinoline
To a stirred solution of N-formyl-1-(4-chlorophenyl)-2-amino-2-methyl propane (9.36 g, 44.2 mmol) in dichloromethane (400 mL) under nitrogen was added oxalyl chloride (4.25 mL, 48.6 mmol) over 10 minutes. After 1 hour, the reaction was cooled in an ice-salt bath (-5° C.) and then treated with anhydrous ferric chloride (8.62 g, 53.0 mmol). One hour later, the cold bath was removed and the reaction stirred an additional 16 h. The dark reaction was then treated with 2.0M aqueous hydrochloric acid and stirred vigorously for 1 h. The organic layer was removed, washed with brine (100 mL), dried over Na2SO4, filtered and concentrated in vacuo, to an oil. This oil was dissolved in 1:19 concentrated sulfuric acid:methanol (400 mL) and heated at reflux for 6 h. The reaction was stirred overnight at room temperature, then concentrated in vacuo to about 30 mL. This was transferred to a separatory funnel, diluted with water (300 mL), and washed with ethyl acetate (200 mL). The ethyl acetate layer was extracted with 2.0M aqueous hydrochloric acid (2×100 mL) and the three combined acid layers were made basic with concentrated ammonium hydroxide. This was extracted with dichloromethane (3×200 mL) and the combined extracts were dried (Na2SO4) and concentrated in vacuo to a clear, very slightly colored oil (5.27 g). Rapid chromatography with ethyl acetate gave the title compound with an Rf =0.45, SiO2, (ethyl acetate) as a slightly colored oil (5.22 g). 1H NMR (CDCl3): 8.18 (1H,s), 7.33 (1H, dd, J=2.0, 8.0 Hz), 7.27 (1H, d, J=2.0 Hz), 7.08 (1H, d, J=8.0 Hz), 2.69 (2H, s), 1.24 (6H, s) ppm. 13C NMR (CDCl3): 156.33, 134.03, 132.68, 131.07, 129.59, 128.75, 127.17, 54.94, 37.10, 27.74 ppm.

reactant | N-formyl-1-(4-chlorophenyl)-2-amino-2-methyl propane | 44.2 mmol, 9.36 g | C(=O)NC(CC1=CC=C(C=C1)Cl)(C)C | C11H14ClNO
reactant | oxalyl chloride | 48.6 mmol, 4.25 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | hydrochloric acid | 2.0M | Cl | ClH
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
product | 7-Chloro-3,3-dimethyl-3,4-dihydro-isoquinoline | ClC1=CC=C2CC(N=CC2=C1)(C)C | C11H12ClN
